US07705023B2
(a) 5-Bromo-2-isopropoxypyridine
The sub-title compound was prepared in accordance with Example 36(b) from isopropylbromide and 5-bromo-1H-pyridin-2-one.

reactant | isopropylbromide | C(C)(C)Br | C3H7Br
reactant | 5-bromo-1H-pyridin-2-one | BrC=1C=CC(NC1)=O | C5H4BrNO
product | 5-Bromo-2-isopropoxypyridine | BrC=1C=CC(=NC1)OC(C)C | C8H10BrNO
